US06800629B2
In 5.0 mL of 80% aqueous solution of acetic acid was dissolved 80 mg of methyl 4-[(4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl]-3-oxo-3,4-dihydro-2-pyrazinecarboxylate. The solution was heated at 80° C. for 2 hours and then allowed to cool, and the solvent was removed under reduced pressure. The residue was diluted with 20 mL of water and washed with diethyl ether, and water was distilled off from the aqueous layer. The residue thus obtained was dissolved in 4.0 mL of methanol, and gaseous ammonia was introduced until saturation at an ice-cooled temperature. After stirring the reaction mixture at room temperature for 2 hours, the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography [eluent: chloroform:methanl=10:1] to obtain 24 mg of 4-[(3S,5S,6R)-5-hydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-3-yl]-3-oxo-3,4-dihydro-2-pyrazinecarboxamide as a solid product.

reactant | methyl 4-[(4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl]-3-oxo-3,4-dihydro-2-pyrazinecarboxylate | 80 mg | C1(=CC=CC=C1)C1OC[C@@H]2[C@@H](O1)C[C@@H](CO2)N2C(C(=NC=C2)C(=O)OC)=O | C19H20N2O6
reactant | ammonia | N | H3N
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 4.0 mL | CO | CH4O
product | 4-[(3S,5S,6R)-5-hydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-3-yl]-3-oxo-3,4-dihydro-2-pyrazinecarboxamide | 24 mg | O[C@H]1C[C@@H](CO[C@@H]1CO)N1C(C(=NC=C1)C(=O)N)=O | C11H15N3O5
